US05189211
To a mixture of 2,6-difluorophenol (25 g), potassium carbonate (39.5 g) and acetone (100 ml) was added dropwise with stirring at room temperature a solution of methyl bromoacetate (17.8 ml) in acetone (100 ml). After stirring at room temperature overnight, the reaction mixture was taken up in a mixture of conc. hydrochloric acid (40 ml) and ice water (500 ml), and extracted with ethyl acetate. The ethyl acetate layer was washed with a saturated aqueous sodium chloride solution and dried over anhydrous magnesium sulfate. Evaporation of the solvent under reduced pressure gave methyl 2,6-difluorophenoxyacetate (38 g) as a colorless oil.

reactant | 2,6-difluorophenol | 25 g | FC1=C(C(=CC=C1)F)O | C6H4F2O
reactant | potassium carbonate | 39.5 g | C([O-])([O-])=O.[K+].[K+]
reactant | methyl bromoacetate | 17.8 ml | BrCC(=O)OC | C3H5BrO2
reactant | hydrochloric acid | 40 ml | Cl | ClH
solvent | acetone | 100 ml | CC(=O)C | C3H6O
solvent | acetone | 100 ml | CC(=O)C | C3H6O
product | methyl 2,6-difluorophenoxyacetate | 38 g | FC1=C(OCC(=O)OC)C(=CC=C1)F | C9H8F2O3
